### PR TITLE
[Merged by Bors] - feat(Tactic/ModuleNF): add module_nf, a normalization tactic for module expressions

### PR DESCRIPTION
**Pull request by paulcadman**
add `module_nf`, a normalization tactic companion to `match_scalars` and `module`. It normalizes module expressions at targeted locations or at the goal and can be used non-terminally. It reuses the `module` tactic's  [`parse`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Tactic/Module.html#Mathlib.Tactic.Module.parse) function to perform normalization.

`module_nf` works under functions `≤`, conjunctions etc:

```lean4
import Mathlib.Tactic.ModuleNF
variable {R M : Type*} [CommRing R] [AddCommGroup M] [Module R M]

example (f : M → M) (a b : R) (x : M) : f (a • x + b • x) = f ((a + b) • x) := by
  module_nf

example (s : Set M) (a : R) (x v w : M) (h : x + a • (v + w) ∈ s) :
    x + (a • v + a • w) ∈ s := by
  module_nf at h ⊢
  exact h

example [Preorder M] (a b : R) (x y : M) (h : (a + b) • x ≤ y) : a • x + b • x ≤ y := by
  module_nf
  exact h

example (a b : R) (x y : M) (h₁ : (a + b) • x = 0) (h₂ : (a + b) • y = 0) :
    (a • x + b • x = 0) ∧ (b • y + a • y = 0) := by
  module_nf
  exact ⟨h₁, h₂⟩
```

Contexts involving scalar towers are also supported:

```lean4
example {S : Type*} [CommRing S] [Algebra R S] [Module S M] [IsScalarTower R S M]
    (a b : R) (u : S) (x y : M) (P : M → Prop) (h : P (b • x + y)) :
    P (a • x + u • y + (1 - u) • y - (a - b) • x) := by
  module_nf
  exact h
```

A `with` form of the tactic can be used to specify a common scalar ring directly:

```lean4
example [AddCommGroup M] (x : M) (P : M → Prop) (h : P ((2 : ℤ) • x)) :
    P (x + x) ∧ P ((2 : ℤ) • x) := by
  module_nf with ℤ
  exact ⟨h, h⟩
```

## Other changes

The module tactic's `match_scalars` preprocessing is changed to clear the `* 1` factors added by module's parser.

Non-throwing variants of `RingNF.evalExpr` and `Abel.evalExpr` are added.

---

- [x] depends on: #42770

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Util/AtLocation.lean [hunk 1]
```diff
@@ -44,6 +44,22 @@ def Lean.Elab.Tactic.withNondepPropLocation (loc : Location) (atLocal : FVarId 
...
+/-- Collect the values from running the `atLocal` and `atTarget` methods on each of the locations
+selected by the given `loc`.
+* If `loc` is a list of locations, collects the results of running at each specified hypothesis (and
+  finally the goal if `⊢` is included), and fails if any of the applications fail.
+* If `loc` is `*`, collects the results of running at the target and at the nondependent `Prop`
+  hypotheses (those produced by `Lean.MVarId.getNondepPropHyps`). Locations where the application
+  fails are skipped, so the result can be empty. -/
+def Lean.Elab.Tactic.mapNondepPropLocation {α : Type} (loc : Location)
+    (atLocal : FVarId → TacticM α) (atTarget : TacticM α) : TacticM (Array α) := do
+  let results ← IO.mkRef (#[] : Array α)
```
Comment (Vierkantor) [inline Mathlib/Util/AtLocation.lean:56]: It is very unfortunate that working with IORef is the only way to get results out of `withLocation`. So good that you made a wrapper around it!

File: Mathlib/Tactic/ModuleNF.lean [hunk 2]
```diff
@@ -0,0 +1,188 @@
...
+    P (x + x) ∧ P ((2 : ℤ) • x) := by
+  module_nf with ℤ
+  exact ⟨h, h⟩
+```
+-/
+syntax (name := moduleNF) "module_nf" (" with " term)? (location)? : tactic
+
+elab_rules : tactic
+  | `(tactic| module_nf $[with $R:term]? $[$loc:location]?) => withMainContext do
+    let loc := (loc.map expandLocation).getD (.targets #[] true)
```
Comment (Vierkantor) [inline Mathlib/Tactic/ModuleNF.lean]: This is a nicer idiom for the same operation:
```suggestion
    let loc := expandOptLocation (mkOptionalNode loc)
```

File: MathlibTest/AtLocation.lean [hunk 3]
```diff
@@ -63,3 +63,21 @@ example (b : Bool) (_h : b = b) : True := by
 #guard_msgs in
 example (h : True) : True := by
   visit_none
+
+/-- Collect the types at each location visited by `mapNondepPropLocation`. -/
+elab "collect_nondep_prop" loc:(location)? : tactic => do
+  let loc := (loc.map expandLocation).getD (.targets #[] true)
```
Comment (Vierkantor) [inline MathlibTest/AtLocation.lean]: Although this is test code, let's use the better idiom here too:
```suggestion
  let loc := expandOptLocation (mkOptionalNode loc)
```

File: MathlibTest/Module/ModuleNF.lean [hunk 4]
```diff
@@ -0,0 +1,246 @@
+/-
```
Comment (Vierkantor) [inline MathlibTest/Module/ModuleNF.lean:1]: We introduced some structure to the `MathlibTest` folder: could you please move this file under `MathlibTest/Tactic/Module`?

File: MathlibTest/Module/ModuleNF.lean [hunk 5]
```diff
@@ -0,0 +1,246 @@
...
+
+example (f : M → M) (a b : R) (x : M) (h : f ((a + b) • x) = 0) :
+    f (a • x + b • x) = 0 := by
+  calc f (a • x + b • x) = f ((a + b) • x) := by module_nf
+    _ = 0 := h
+
+example (p : M → Prop) (f : M → M) (a b : R) (x : M) (h : p (f ((a + b) • x))) :
+    p (f (a • x + b • x)) := by
+  module_nf
+  exact h
```
Comment (Vierkantor) [inline MathlibTest/Module/ModuleNF.lean:124]: To ensure we do not depend too closely on non-meaningful changes to the normal form (e.g. preserving the order of the atoms `a`, `b`), should we normalize both sides here and below?
```suggestion
  module_nf at h ⊢
  exact h
```

If you want to test that `a • x + b • x` turns into one scalar multiple of `x`, maybe instead check using `guard_target =~ p (f ((_ : R) • x))` (probably `=~` is the right equality, since `=` and `=ₛ` don't unfold instances).

File: Mathlib/Tactic/ModuleNF.lean [hunk 6]
```diff
@@ -0,0 +1,188 @@
...
+
+public meta section
+
+open Lean hiding Module
+open Qq Parser.Tactic Elab.Tactic Meta
+
+namespace Mathlib.Tactic.ModuleNF
+
+/-- Infer the scalar ring over which the scalar rings appearing in `es` should be normalized. -/
+def inferBase (es : Array Expr) : MetaM (Σ u : Level, Q(Type u)) := do
```
Comment (Vierkantor) [inline Mathlib/Tactic/ModuleNF.lean]: Maybe cross-reference between this and `Mathlib.Tactic.Algebra.inferBase` which do similar things (but the `algebra` tactic also takes into account the ring/field structure, so I don't see a good way to reuse between the two).

File: Mathlib/Tactic/ModuleNF.lean [hunk 7]
```diff
@@ -0,0 +1,188 @@
...
+  let rings := (← es.toList.mapM Algebra.collectScalarRings).flatten
+  let rings ← rings.eraseDups.mapM getLevelQ'
+  match rings with
+  | [] => return ⟨0, q(ℕ)⟩
+  | r :: rs => rs.foldlM Algebra.pickLargerRing r
+
+/-- Rewrite `e`, an expression in some `AddCommMonoid`, into `module_nf` normal form using
+`Mathlib.Tactic.Module.eval`. -/
```
Comment (Vierkantor) [inline Mathlib/Tactic/ModuleNF.lean]: Should probably be made clear that this normal form is not the output of `module_nf yet:
```suggestion
/-- Rewrite `e`, an expression in some `AddCommMonoid`, into `module`'s internal normal
form using `Mathlib.Tactic.Module.eval`.

`Mathlib.Tactic.ModuleNF.cleanup` puts the result of this function into `module_nf` normal form.
-/
```

File: Mathlib/Tactic/ModuleNF.lean [hunk 8]
```diff
@@ -0,0 +1,188 @@
...
+def evalExpr (base : Σ u : Level, Q(Type u)) (postCtx : Simp.Context) (e : Expr) :
+    AtomM Simp.Result := do
+  let e ← withReducible <| whnf e
+  guard e.isApp
```
Comment (Vierkantor) [inline Mathlib/Tactic/ModuleNF.lean]: Why do we want this check here? I thought maybe it's to skip the work when it's an atom, but there `Module.eval` already does the same check.

File: Mathlib/Tactic/ModuleNF.lean [hunk 9]
```diff
@@ -0,0 +1,188 @@
...
+  let postCtx ← read
+  let cleanCtx ← cleanupCtx
+  AtomM.recurse s { red := .instances } (wellBehavedDischarge := true) (evalExpr base postCtx)
+    (cleanup cleanCtx) e
+
+/-- Infer a common base scalar ring across all locations targeted by `loc`.
+
+The locations read are exactly those that `transformAtNondepPropLocation` rewrites when the
+tactic runs, so the inferred ring reflects the rewrite set. -/
+def inferBaseAtLocation (loc : Location) : TacticM (Σ u : Level, Q(Type u)) :=
```
Comment (Vierkantor) [inline Mathlib/Tactic/ModuleNF.lean]: For ease of reading, could you move this next to `inferBase`?

File: Mathlib/Tactic/ModuleNF.lean [hunk 10]
```diff
@@ -0,0 +1,188 @@
...
+
+The scalar rings can be aligned by specifying `ℤ` explicitly:
+
+```
+example [AddCommGroup M] (x : M) (P : M → Prop) (h : P ((2 : ℤ) • x)) :
+    P (x + x) ∧ P ((2 : ℤ) • x) := by
+  module_nf with ℤ
+  exact ⟨h, h⟩
+```
+-/
```
Comment (Vierkantor) [inline Mathlib/Tactic/ModuleNF.lean]: I like that you have quite a few examples in your documentation! But please recall that this docstring will appear in a small hover popup and so should be as concise as possible. I propose: we move the full docstring to the module docs (keeping the existing documentation as an `## Implementation notes` section), and then rewrite the docstring.

In particular, the first sentence should start with the tactic name as the subject and explain what it does by default, and then variants can be listed explicitly below using bullet points.

````suggestion
/-- `module_nf` normalizes the goal, by rewriting every linear combination
`a • x + ... + b • y` into a normal form, collecting the scalars of common terms and normalizing
them with `ring_nf`. If the goal is an equality and the two sides have the same normal form,
`module_nf` closes the goal. Otherwise the rewritten goal is left open, and `module_nf` can be used
non-terminally.

Like `match_scalars` and `module`, linear combinations are parsed from `+`, `-`, `•` and `0`, other
subexpressions (including variables) are atoms, and the scalars are interpreted in the largest
scalar ring encountered, and subtraction requires a ring (see `match_scalars` for the requirements
on scalar types).

* `module_nf at loc` rewrites at the location(s) `loc`.
* `module_nf with R` uses `R` as the common ring of scalars.

Examples:

```lean
example [AddCommMonoid M] [CommSemiring R] [Module R M] (a b : R) (x : M) :
    a • x + b • x = (a + b) • x := by
  module_nf

example [AddCommMonoid M] [CommSemiring R] [Module R M] (a b : R) (x : M)
    (h : a • x + b • x = 0) : (b + a) • x = 0 := by
  module_nf at h ⊢
  exact h

example [AddCommGroup M] (x : M) (P : M → Prop) (h : P ((2 : ℤ) • x)) :
    P (x + x) ∧ P ((2 : ℤ) • x) := by
  module_nf with ℤ
  exact ⟨h, h⟩
```
````

File: Mathlib/Tactic/ModuleNF.lean [hunk 11]
```diff
@@ -0,0 +1,188 @@
...
+  let thms ← [``one_smul, ``zero_smul, ``add_zero, ``zero_add, ``mul_one,
+    ``one_mul, ``neg_one_smul, ``algebraMap_smul].foldlM (·.addConst ·) ({} : SimpTheorems)
+  Simp.mkContext { failIfUnchanged := false }
+    (simpTheorems := #[thms]) (congrTheorems := ← getSimpCongrTheorems)
+
+/-- Clean up a rewritten expression with the `cleanupCtx` lemmas. -/
+def cleanup (ctx : Simp.Context) (r : Simp.Result) : MetaM Simp.Result := do
+  r.mkEqTrans (← Simp.main r.expr ctx (methods := Simp.mkDefaultMethodsCore {})).1
+
+/-- Run the `module_nf` rewrite on the expression `e` -/
```
Comment (Vierkantor) [inline Mathlib/Tactic/ModuleNF.lean]: We should probably make a bit more explicit what `s` does here (one needs to pass it around in order for the atoms to all end up in a consistent order).

(Looks like we can't easily instead pass multiple `Expr`s to `moduleNFCore` instead, which would have been a nicer option, due to the design of `withLocation`.)

**Review by Vierkantor — COMMENTED** [review]
Thanks! The design behind the tactic looks sound to me, running everything in AtomM as far as possible and then passing around the state outside.

Some comments mostly about technical choices and documentation, overall I think nothing structural.

File: MathlibTest/Module/ModuleNF.lean (hunk 5 above)
Comment (paulcadman) [reply MathlibTest/Module/ModuleNF.lean:124]: > To ensure we do not depend too closely on non-meaningful changes to the normal form (e.g. preserving the order of the atoms `a`, `b`), should we normalize both sides here and below?

I agree we don't want the tests to be fragile. However I think we want to check that some examples to be closed by `module_nf` alone, and the tests guard against changes that break that. Does that sound reasonable?

File: Mathlib/Tactic/ModuleNF.lean (hunk 8 above)
Comment (paulcadman) [reply Mathlib/Tactic/ModuleNF.lean]: I put the check here to skip the work of instance search and `Module.parse` for expressions that are at atom. The performance difference is measurable:

```lean
import Mathlib.Tactic.ModuleNF
import Mathlib.Util.CountHeartbeats

variable {R M : Type*} [CommRing R] [AddCommGroup M] [Module R M]

-- without guard: 1394
-- with guard: 1031
#count_heartbeats in
example (s : Finset ℕ) (v : ℕ → M) (a b : R) :
    ∑ i ∈ s, (a • v i + b • v i) = ∑ i ∈ s, (a + b) • v i := by
  module_nf

-- without guard: 840
-- with guard: 681
#count_heartbeats in
example (a b : R) (h : ∀ y : M, a • y + b • y = 0) (x : M) : (a + b) • x = 0 := by
  module_nf at h
  exact h x
```

I'll add a comment.

File: Mathlib/Tactic/ModuleNF.lean (hunk 2 above)
Comment (paulcadman) [reply Mathlib/Tactic/ModuleNF.lean]: done in 3295192049

File: MathlibTest/AtLocation.lean (hunk 3 above)
Comment (paulcadman) [reply MathlibTest/AtLocation.lean]: done in 3295192049

File: Mathlib/Tactic/ModuleNF.lean (hunk 6 above)
Comment (paulcadman) [reply Mathlib/Tactic/ModuleNF.lean]: Done in 64c1f983cf

File: Mathlib/Tactic/ModuleNF.lean (hunk 7 above)
Comment (paulcadman) [reply Mathlib/Tactic/ModuleNF.lean]: Done in ce33f2d249

File: Mathlib/Tactic/ModuleNF.lean (hunk 8 above)
Comment (paulcadman) [reply Mathlib/Tactic/ModuleNF.lean]: comment added in b01f88df5e

File: Mathlib/Tactic/ModuleNF.lean (hunk 9 above)
Comment (paulcadman) [reply Mathlib/Tactic/ModuleNF.lean]: done in df553b0b90

File: Mathlib/Tactic/ModuleNF.lean (hunk 10 above)
Comment (paulcadman) [reply Mathlib/Tactic/ModuleNF.lean]: done in da7297a66b

File: Mathlib/Tactic/ModuleNF.lean (hunk 11 above)
Comment (paulcadman) [reply Mathlib/Tactic/ModuleNF.lean]: done in 1bd41344d7

File: MathlibTest/Module/ModuleNF.lean (hunk 4 above)
Comment (paulcadman) [reply MathlibTest/Module/ModuleNF.lean:1]: done in 8cf3393bbb

**Comment by paulcadman** [comment]
-awaiting-author

File: MathlibTest/Module/ModuleNF.lean (hunk 5 above)
Comment (Vierkantor) [reply MathlibTest/Module/ModuleNF.lean:124]: Ah sorry, I am afraid I was unclear :)

So what I meant was not the tests above that look like `example : ... := by module_nf` and are done. Those I agree we want to keep, to ensure we can close goals by `module_nf` alone.

I mean this specific pattern where it's `by module_nf; exact h`. Namely, I expect the precise normal form to change enough (especially in atom order) that we'll be too fragile by expecting the normal form to match `h` exactly. So for that specific case I'd like to see either:
1. both the goal and the hypothesis get put in normal form (which would be completely agnostic to choice of normal form, apart from the mere existence!), using `by module_nf at h ⊢; exact h`
2. if we want to specify that the normal form of `p (f (a • x + b • x))` is either `p (f ((a + b) • x)` or `p (f ((b + a) • x))`, we can write `by module_nf at h ⊢; guard_target =~ p (f ((_ : R) • x));  exact h`.

Which option we choose would depend on the situation, either can work really.

**Review by Vierkantor — COMMENTED** [review]
Sorry for the late response! You did good work on this PR and I could have pushed it along much faster.

Only the point about tests remains, otherwise this is ready for me to merge. Please yell at me this week if I haven't responded in the 24 hours after your next commits/comments :)

File: MathlibTest/Module/ModuleNF.lean (hunk 5 above)
Comment (paulcadman) [reply MathlibTest/Module/ModuleNF.lean:124]: Thanks for explaining again. I've applied a mix of the two options to the `module_nf` in 9d04201

**Comment by paulcadman** [comment]
-awaiting-author

**Review by Vierkantor — APPROVED** [review]
Nice work! Let's get this merged 🎉 

bors r+
